US05569653
1-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-propanone hydrochloride
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (7.45 g, 33.4 mmol), K2CO3 (5.5 g) and bromo-2,2-dimethoxypropane (6.84 g, 37.6 mmol) in acetonitrile (200 ml) was heated and stirred at reflux for 4 hours. An additional charge of bromo-2,2-dimethoxypropane (5.1 g, 28 mmol) was added and the mixture was refluxed overnight. After being cooled to room temperature, the mixture was filtered, and the solvent was removed on a rotary evaporator. The residue was purified by flash chromatography over a silica gel column (SiO2, 100 g; eluted with dichloromethane, DCM, and 1% CH3OH in DCM). The oil product thus obtained weighed 2.2 g (24%). The oil product was dissolved into ethanol (10 ml) then was treated with HCl in ether solution (1M, 9 ml) at room temperature. The crystals were collected, 2.08 g, m.p.=220°-223° C. dec.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 33.4 mmol, 7.45 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromo-2,2-dimethoxypropane | 37.6 mmol, 6.84 g | BrCC(C)(OC)OC | C5H11BrO2
reactant | bromo-2,2-dimethoxypropane | 28 mmol, 5.1 g | BrCC(C)(OC)OC | C5H11BrO2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | ether | 1M, 9 ml | CCOCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-propanone hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(C)=O)C=C1 | InChI=1S/C15H17FN2O2.ClH/c1-10(19)9-18-6-4-11(5-7-18)15-13-3-2-12(16)8-14(13)20-17-15;/h2-3,8,11H,4-7,9H2,1H3;1H
